US06762300B2
1) Synthesis of 5-(4-benzylpiperazin-1-yl)-2-hydroxybenzaldehyde
0.6 g of bis(dibenzylideneacetone)palladium and 0.16 g of tri-tert-butylphosphine are added under nitrogen to 200 ml of toluene, and the resultant dark-red solution is stirred at 20° for 20 minutes. 10 g of 5-bromo-2-hydroxybenzaldehyde, 9.7 g of 1-benzylpiperazine and 7.2 g of sodium tert-butoxide are then added. The mixture is stirred at 60° for 24 hours and cooled, 800 ml of water are added, and the mixture is extracted with 2×500 ml of ethyl acetate. The organic phases are combined and washed with 300 ml of water, and the solvent is removed at 30° under reduced pressure. The dark-orange oil which remains (9.7 g) is purified by chromatography (300 g of silica gel; MTB ether/heptane 5:1; 1.5 litres). 9.9 g of pale-yellow crystals remain (67%), m.p. 101-103°; MS 296 (M+), 205, 119, 91 (100%).

reactant | tri-tert-butylphosphine | 0.16 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 5-bromo-2-hydroxybenzaldehyde | 10 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | 1-benzylpiperazine | 9.7 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium tert-butoxide | 7.2 g | CC(C)([O-])C.[Na+]
catalyst | bis(dibenzylideneacetone)palladium | 0.6 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | water | 800 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-benzylpiperazin-1-yl)-2-hydroxybenzaldehyde | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=CC(=C(C=O)C1)O | C18H20N2O2
